US07868014B2
(S)-[1-(6-Fluoropyridin-3-yl)-pyrrolidin-3-yl]-(4-trifluoromethylbenzyl)-amine
Add 4-(trifluoromethyl)benzaldehyde (30 μL, 0.22 mmol) to a solution of 1-(6-fluoropyridin-3-yl)-pyrrolidin-3-ylamine hydrochloride (43 mg, 0.2 mmol) and triethylamine (90 μL, 0.66 mmol) in methanol (1 mL). Vortex the resulting mixture and allow to sit for 18 h. Add sodium borohydride (12-15 mg, 0.3-0.4 mmol). When the bubbling begins to subside, vortex and allow to sit for 1 h. Dilute the reaction mixture with methanol (2 mL) and pour onto a column of Dowex® 50Wx2 (H+ form). Rinse the column with methanol, elute the product with 5% triethylamine in methanol and concentrate. Redissolve the residue in methanol, dilute with acetonitrile and concentrate to dryness to give the title compound as a residue.

reactant | 4-(trifluoromethyl)benzaldehyde | 0.22 mmol, 30 μL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 1-(6-fluoropyridin-3-yl)-pyrrolidin-3-ylamine hydrochloride | 0.2 mmol, 43 mg | Cl.FC1=CC=C(C=N1)N1CC(CC1)N
reactant | triethylamine | 0.66 mmol, 90 μL | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 0.3-0.4 mmol, 12-15 mg | [BH4-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
product | (S)-[1-(6-Fluoropyridin-3-yl)-pyrrolidin-3-yl]-(4-trifluoromethylbenzyl)-amine | FC1=CC=C(C=N1)N1C[C@H](CC1)NCC1=CC=C(C=C1)C(F)(F)F | C17H17F4N3
